US06846819B1
Preparation of (E)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-[6(3-methyl-ureido)pyridin-3-yl]acrylamide
Methyl isocyanate (0.1 8 mL, 3.05 mmole) was added to a solution of (E)-3-(6 aminopyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide (0.20 g, 0.61 mmole) and triethylamine (0.17 mL, 1.22 mmole) in DMF (20 mL) at RT. The reaction was stirred for 5 days, then was concentrated in vacuo, and the residue was diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over Na2SO4, and concentrated. Flash chromatography on silica gel (ethyl acetate) gave the title compound (0.10 g, 43%) as an off white solid: MS (ES) m/e 378 (M+H)+.

reactant | Methyl isocyanate | 3.05 mmole, 8 mL | CN=C=O | C2H3NO
reactant | (E)-3-(6 aminopyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide | 0.61 mmole, 0.20 g | NC1=CC=C(C=N1)/C=C/C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C | C19H20N4O
reactant | triethylamine | 1.22 mmole, 0.17 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (E)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-[6(3-methyl-ureido)pyridin-3-yl]acrylamide | 0.10 g, 43% | CN(C(\C=C\C=1C=NC(=CC1)NC(=O)NC)=O)CC=1N(C2=CC=CC=C2C1)C | C21H23N5O2
